*****************************************************************
* NXP BUK7Y25-80E
*
* Polarity N-Channel
* Ratings 80V/2.500000E-002OHMS/38.771532313556A
*
* Date Created Mon Feb 04 07:49:55 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y25-80E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5.3e-10
RLS2 SOURCE 8 1.33203528512207
RLS1 8 7 0.0002

RDS 7 4 80000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0151080506605304 TC=0.00557554411796304,1.57075507316697E-05
RBD 9 4 0.00169448224698095 TC=0.00557554411796304,1.57075507316697E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 1.18185245200371e-09
RG 1 2 2.14663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1298.96
+ -16	1297.73
+ -10	1293.94
+ -5	1280.41
+ -4	1255.48
+ -3	1269.13
+ -2	1072.2
+ -1	829.336
+ -0.5	616.621
+ -0.2	444.753
+ -0.1	440.649
+ 0	351.30148
+ 0.1	282.13476
+ 0.2	281.8754
+ 0.5	247.60988
+ 1	210.10088
+ 2	160.90248
+ 3	143.89144
+ 4	135.03932
+ 5	129.09192
+ 6	124.62576
+ 8	118.03852
+ 10	113.05
+ 12	108.9404
+ 15	103.88616
+ 20	97.40538
+ 30	88.82186
+ 50	79.96143
+ 64	76.69997



.MODEL MINT NMOS(Vto=3.863 Kp=90 Nfs=970000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=88 Ibv=2.500000E-004 Rs=1E-6 Is=3.26117498936486e-13
+ N=1 M=0.6 VJ=0.56 Fc=0.5 Cjo=5.837884e-10 Tt=1.8848e-08)

.ENDS

